US05591846
5-Chloropentanoyl chloride (5.1 g, 33 mmol) was added dropwise to a stirred solution of N,N'-bis[2,3-bis(acetyloxy)propyl]-5-amino-2,4,6-triiodo-1,3-benzenedicarboxamide (20.5 g, 23 mmol) in N,N'-dimethylacetamide (75 ml) at 0°-5°. The reaction mixture was stirred at 5° for 1 hour, and then at room temperature for 30 hours. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate (250 ml). The solution was washed with water (2×50 ml), followed by saturated aqueous NaCl (50 ml), and then dried over anhydrous sodium sulfate. Removal of the solvent in vacuo gave N,N'-bis[2,3-bis(acetyloxy)propyl]-5-[(5-chloro-1-oxopentyl)amino]-2,4,6-triiodo-1,3-benzenedicarboxamide as an off-white fluffy solid (22.1 g, yield 97%, purity 98.5%).

reactant | 5-Chloropentanoyl chloride | 33 mmol, 5.1 g | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | N,N'-bis[2,3-bis(acetyloxy)propyl]-5-amino-2,4,6-triiodo-1,3-benzenedicarboxamide | 23 mmol, 20.5 g | C(C)(=O)OC(CNC(=O)C1=C(C(=C(C(=C1I)N)I)C(=O)NCC(COC(C)=O)OC(C)=O)I)COC(C)=O | C22H26I3N3O10
product | N,N'-bis[2,3-bis(acetyloxy)propyl]-5-[(5-chloro-1-oxopentyl)amino]-2,4,6-triiodo-1,3-benzenedicarboxamide | yield 97% | C(C)(=O)OC(CNC(=O)C1=C(C(=C(C(=C1I)NC(CCCCCl)=O)I)C(=O)NCC(COC(C)=O)OC(C)=O)I)COC(C)=O | C27H33ClI3N3O11
